US08729078B2
HATU (110 mg, 0.288 mmol) was added to a solution of 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid (113 mg, 0.262 mmol) in dry THF (15 mL). Ammonia gas was bubbled through the solution. The mixture was stirred at room temperature under NH3 (g) for 16 h. The mixture was concentrated under reduced pressure. The residue was purified by preparative HPLC to give 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid amide (25 mg, yield 22%) as a white solid. 1H NMR (300 MHz, CD3OD) δ 8.42 (s, 1H), 8.27 (d, J=8.5 Hz, 1H), 8.02-7.90 (m, 2H), 7.54-7.35 (m, 2H), 7.24-7.13 (m, 2H), 7.02 (d, J=1.9 Hz, 1H), 4.37 (s, 2H), 3.87 (s, 3H), 1.37 (s, 9H). LC-MS calcd for C25H26N4O3 (m/e) 430.20, obsd 883 [2M+Na]+.

reactant | HATU | 0.288 mmol, 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid | 0.262 mmol, 113 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)C1=CC=C(N1C)C(=O)O)CO | C25H25N3O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid amide | 25 mg, yield 22% | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)C1=CC=C(N1C)C(=O)N)CO | C25H26N4O3
